US20010036946A1
a) 3,4-dihydro-3-[1-[1-(phenylmethyl)-4-piperidinyl]-4-piperidinyl]-2(1H)-quinazolinone
A mixture of 5.75 g (0.0249 mol) of 3,4-dihydro-3-(4-piperidinyl)-2(1H)-quinazolinone, 4.75 g (0.0251 mol) of 1-(phenylmethyl)-4-piperidinone and 100 ml of ethanol was treated for 30 minutes in an ultrasound bath, then mixed with 9.5 ml (0.031 mol) of titanium (IV) isopropoxide, whereby after 10 minutes a crystal mass was formed. Then heating was continued using the ultrasound bath for a further 2% hours to a maximum of 35° C., the mixture was allowed to cool to room temperature and 1.05 g (0.0167 mol) of sodium cyanoborohydride were then added in batches, whilst maintaining the pH at 5-6 using dilute methanolic hydrogen chloride solution, and it was then kept for 24 hours at room temperature. After this time another 1.05 g (0.0167 mol) of sodium cyanoborohydride were added and the same procedure was used as above. After a total of 48 hours reaction time the mixture was decomposed by the addition of water and worked up in the usual way. The crude product obtained was purified by column chromatography over silica gel using FM4 as eluant. 7.05 g (70% of theory)of a colourless crystalline substance were obtained.

reactant | 3,4-dihydro-3-(4-piperidinyl)-2(1H)-quinazolinone | 0.0249 mol, 5.75 g | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
reactant | 1-(phenylmethyl)-4-piperidinone | 0.0251 mol, 4.75 g | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | sodium cyanoborohydride | 0.0167 mol, 1.05 g | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | sodium cyanoborohydride | 0.0167 mol, 1.05 g | C(#N)[BH3-].[Na+]
catalyst | titanium (IV) isopropoxide | 0.031 mol, 9.5 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3,4-dihydro-3-[1-[1-(phenylmethyl)-4-piperidinyl]-4-piperidinyl]-2(1H)-quinazolinone | C1(=CC=CC=C1)CN1CCC(CC1)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C25H32N4O
